US05922742
Step 6: 3-(4-(Methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one hydrochloride
To a solution of 3-(4-(methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one (5.0 g, 15.96 mmol) in CH2Cl2 (50 mL) was passed a stream of HCl gas for 10 min. Excess HCl was removed by bubbling a stream of air through the solution. The solution was then concentrated and swished in Et2O to give 5.7 g of the title compound.

reactant | 3-(4-(methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one | 15.96 mmol, 5.0 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(CC1)=O)C=1C=NC=CC1 | C17H15NO3S
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-(Methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one hydrochloride | 5.7 g | Cl.CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(CC1)=O)C=1C=NC=CC1 | InChI=1S/C17H15NO3S.ClH/c1-22(20,21)14-6-4-12(5-7-14)15-8-9-16(19)17(15)13-3-2-10-18-11-13;/h2-7,10-11H,8-9H2,1H3;1H
